US08895596B2
Step B N-(biphenyl-4-ylmethyl)-3,5-difluoro-4-iodo-2-nitroaniline.
NIS (7.9 g, 35.1 mmol) was added to a solution of N-(biphenyl-4-ylmethyl)-3,5-difluoro-2-nitroaniline (10.86 g, 31.9 mmol) in AcOH (150 mL). After heating at 70° C. for 2 h, the reaction mixture was concentrated and partitioned between EtOAc and saturated aqueous NaHCO3. The organic phase was separated, washed with brine, dried (Na2SO3) and concentrated. The resulting solid was recrystallized from DCM/hexanes afforded the desired product as a red solid.

reactant | NIS | 35.1 mmol, 7.9 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | N-(biphenyl-4-ylmethyl)-3,5-difluoro-2-nitroaniline | 31.9 mmol, 10.86 g | C1(=CC=C(C=C1)CNC1=C(C(=CC(=C1)F)F)[N+](=O)[O-])C1=CC=CC=C1 | C19H14F2N2O2
solvent | AcOH | 150 mL | CC(=O)O | C2H4O2
product | N-(biphenyl-4-ylmethyl)-3,5-difluoro-4-iodo-2-nitroaniline | C1(=CC=C(C=C1)CNC1=C(C(=C(C(=C1)F)I)F)[N+](=O)[O-])C1=CC=CC=C1 | C19H13F2IN2O2
